US09255110B2
To a solution of (E)-3-(4-methoxy-3-nitro-phenyl)-acrylic acid methyl ester (0.5 g) in dichloromethane (5 mL) was added zinc dust (2 g), followed by acetic acid (1 mL) and the resulting mixture was stirred at room temperature for 30 minutes. The solid was filtered off and washed with dichloromethane. The filtrate was evaporated under reduced pressure and the residue was purified by flash chromatography (DCM/acetone, 95/5) to give (E)-3-(3-amino-4-methoxy-phenyl)-acrylic acid methyl ester.

reactant | (E)-3-(4-methoxy-3-nitro-phenyl)-acrylic acid methyl ester | 0.5 g | COC(\C=C\C1=CC(=C(C=C1)OC)[N+](=O)[O-])=O | C11H11NO5
reactant | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | zinc | 2 g | [Zn] | Zn
product | (E)-3-(3-amino-4-methoxy-phenyl)-acrylic acid methyl ester | COC(\C=C\C1=CC(=C(C=C1)OC)N)=O | C11H13NO3
